US04182758
A mixture of dibutyl 3-[N-isobutoxycarbonyl-N-(p-methoxybenzyloxy)amino]propylphosphonate (6.04 g), conc. hydrochloric acid (60 ml) and acetic acid (60 ml) was refluxed with stirring for 21 hours. The resultant mixture was concentrated under reduced pressure, and to the residue was added water. The mixture was concentrated under reduced pressure to give a residue, which was washed with acetonitrile and then dissolved in water (10 ml). To the solution were added pyridine (800 ml) and ethanol (4 ml), and then the mixture was allowed to stand overnight at 4° C. to give 3-(N-hydroxyamino)propylphosphonic acid (1.02 g) in the form of crystals. MP: 160°~166° C. (dec.).

reactant | dibutyl 3-[N-isobutoxycarbonyl-N-(p-methoxybenzyloxy)amino]propylphosphonate | 6.04 g | C(C(C)C)OC(=O)N(OCC1=CC=C(C=C1)OC)CCCP(OCCCC)(OCCCC)=O | C24H42NO7P
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-(N-hydroxyamino)propylphosphonic acid | 1.02 g | ONCCCP(O)(O)=O | C3H10NO4P
